US09382228B2
A solution of 2-(4-methyl-1H-imidazol-1-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine (0.73 g, 2.46 mmol) in MeOH (10 mL)/THF (10 mL) was treated with 10% Pd/C (50% wet, 0.261 g, 0.122 mmol) and the mixture was hydrogenated (50 psi) for 16 h at RT. The mixture was filtered through diatomaceous earth and washed with 10% methanol-DCM (3×10 mL). The combined filtrate was concentrated to afford 5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine (0.6 g, 91%) as an off-white solid. MS (ESI) m/z: 268.2 (M+H+).

reactant | 2-(4-methyl-1H-imidazol-1-yl)-4-((6-nitropyridin-3-yl)oxy)pyridine | 2.46 mmol, 0.73 g | CC=1N=CN(C1)C1=NC=CC(=C1)OC=1C=NC(=CC1)[N+](=O)[O-] | C14H11N5O3
reactant | THF | 10 mL | C1CCOC1 | C4H8O
solvent | MeOH | 10 mL | CO | CH4O
catalyst | Pd/C | 0.122 mmol, 0.261 g | [Pd] | Pd
product | 5-((2-(4-methyl-1H-imidazol-1-yl)pyridin-4-yl)oxy)pyridin-2-amine | 0.6 g, 91% | CC=1N=CN(C1)C1=NC=CC(=C1)OC=1C=CC(=NC1)N | C14H13N5O
